US04889857
By the use of 2-chloromethyl-4-benzylmorpholine and piperidine, the reaction is similarly carried out as Reference example 2 to give 2-(piperidinomethyl)morpholine dihydrochloride as white crystals, melting at 172°-174° C. with decomposition.

reactant | 2-chloromethyl-4-benzylmorpholine | ClCC1CN(CCO1)CC1=CC=CC=C1 | C12H16ClNO
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-(piperidinomethyl)morpholine dihydrochloride | Cl.Cl.N1(CCCCC1)CC1CNCCO1 | InChI=1S/C10H20N2O.2ClH/c1-2-5-12(6-3-1)9-10-8-11-4-7-13-10;;/h10-11H,1-9H2;2*1H
